US07704995B2
3-(5-Amino-6-{(1E)-N-[4-(methyloxy)phenyl]ethanehydrazonoyl}pyrazin-2-yl)-N-(phenylmethyl)benzamide:
A solution of 3-amino-6-{3-[(benzylamino)carbonyl]phenyl}-N-methoxy-N-methylpyrazine-2-carboxamide (0.10 g, 0.25 mmol) in THF (5 mL) was cooled to 0° C., and a solution of CH3MgCl (0.75 mL, 1 M in THF, 3.0 equiv.) was added slowly. The mixture was allowed to warm to room temperature over 1.5 hr. The mixture was then cooled to 0° C. and quenched slowly with saturated NH4Cl solution. The mixture was extracted with ethyl acetate, washed with brine then water. The ethyl acetate extract was evaporated to afford the corresponding methyl ketone as a yellow solid. To a portion of this residue (35 mg, 0.1 mmol) in ethanol in a pressure tube (5 mL) was added 4-methoxyphenylhydrazine hydrochloride (52 mg, 3 mmol). This mixture was then heated to for 12 h. The solvent was removed under reduced pressure and the crude mixture was dissolved in a minimal amount of methanol and run through a plug of silica gel to give the product as a white solid (33 mg, 70% yield). 1H NMR (400 MHz, CDCl3): δ 8.40 (m, 1H), 8.0 (m, 2H), 7.80 (m, 2H), 7.25 (m,1H), 7.2 (m, 4H), 6.9 (m, 4H), 4.8 (s, 2H), 3.8 (s, 3H), 2.6 (s, 3H). MS (EI) for C27H26N6O2: 467 (MH+).

reactant | 3-amino-6-{3-[(benzylamino)carbonyl]phenyl}-N-methoxy-N-methylpyrazine-2-carboxamide | 0.25 mmol, 0.10 g | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)NCC1=CC=CC=C1)C(=O)N(C)OC | C21H21N5O3
reactant | CH3MgCl | 1 M, 0.75 mL, 3.0 equiv. | C[Mg]Cl
reactant | 4-methoxyphenylhydrazine hydrochloride | 3 mmol, 52 mg | Cl.COC1=CC=C(C=C1)NN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-Amino-6-{(1E)-N-[4-(methyloxy)phenyl]ethanehydrazonoyl}pyrazin-2-yl)-N-(phenylmethyl)benzamide | 33 mg, 70% yield | NC=1N=CC(=NC1\C(\C)=N\NC1=CC=C(C=C1)OC)C=1C=C(C(=O)NCC2=CC=CC=C2)C=CC1 | C27H26N6O2
